US05808062
3-[[2-(Cyclopropylmethyl)phenyl]thio]-6-(3,5-dimethyl-phenyl)-4-hydroxy-2H-pyran-2-one:
The title compound was prepared by Method A using 3,3'-dimethyl acetophenone (2 g, 13.51 mmol), trimethylsilyl triflate (3 g, 13.1 mmol), triethylamine (2.73 g, 27.02 mmol), methylene chloride (20 mL), and diethyl ester of [[2-(cyclopropylmethyl)phenyl]thio]propanedioic acid (2.18 g, 6.76 mmol). m.p. 168° C.; 1H NMR (400 MHz, DMSO-d6) δ 0.28 (d, 2H), 0.39 (dd, 2H), 1.13 (m, 1H), 2.36 (s, 6H), 2.67 (d, 2H), 6.85 (s, 1H), 6.92 (m, 1H), 7.11 (m, 2H), 7.22 (s, 1H), 7.33 (m, 1H), 7.47 (s, 2H).

reactant | trimethylsilyl triflate | 13.1 mmol, 3 g | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | triethylamine | 27.02 mmol, 2.73 g | C(C)N(CC)CC | C6H15N
reactant | [[2-(cyclopropylmethyl)phenyl]thio]propanedioic acid | 6.76 mmol, 2.18 g | C1(CC1)CC1=C(C=CC=C1)SC(C(=O)O)C(=O)O | C13H14O4S
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-[[2-(Cyclopropylmethyl)phenyl]thio]-6-(3,5-dimethyl-phenyl)-4-hydroxy-2H-pyran-2-one | C1(CC1)CC1=C(C=CC=C1)SC=1C(OC(=CC1O)C1=CC(=CC(=C1)C)C)=O | C23H22O3S
